US04025649
Preparation of sodium 4-n-propyl-heptanoate
In a flask, 17.2 g (0.1 mol) of 4-n-propyl-heptanoic acid, prepared as described in the above Example 2, were dissolved in a sufficient volume of water. After that 4 g (0.1 mol) of a sodium hydroxide solution in water were added and the mixture was evaporated to dryness. The residue so obtained was rinsed with ethyl ether and maintained in a dessicator under vacuum.

reactant | 4-n-propyl-heptanoic acid | 0.1 mol, 17.2 g | C(CC)C(CCC(=O)O)CCC | C10H20O2
reactant | sodium hydroxide | 0.1 mol, 4 g | [OH-].[Na+]
solvent | water | O | H2O
product | sodium 4-n-propyl-heptanoate | C(CC)C(CCC(=O)[O-])CCC.[Na+] | InChI=1S/C10H20O2.Na/c1-3-5-9(6-4-2)7-8-10(11)12;/h9H,3-8H2,1-2H3,(H,11,12);/q;+1/p-1
